US08912338B2
Preparation of diethyl 2-benzyl-2-(methylthiomethyl)malonate
Chloromethyl methyl sulfide (1.4 mL, 17 mmol, 1.0 equiv) and 60% sodium hydride in mineral oil (750 mg, 19 mmol, 1.1 equiv) were sequentially added to a stirred solution of diethyl 2-benzylmalonate (4.0 mL, 17 mmol, 1.0 equiv) in N,N-dimethylformamide (34 mL) at 0° C. The resulting mixture was warmed to 23° C. and stirred for 18 h. The reaction mixture was concentrated under vacuum. The residue was diluted with water (150 mL) and extracted with diethyl ether (4×70 mL). The combined organic layers were dried (MgSO4), gravity-filtered, and concentrated by rotary evaporation to afford a yellow oil (5.3 g, 99%): 1H NMR (300 MHz, CDCl3) δ 7.13-7.30 (m, 5H), 4.22 (q, J=7 Hz, 4H), 3.36 (s, 2H), 2.94 (s, 2H), 2.11 (s, 3H), 1.27 (t, J=7 Hz, 6H).

reactant | Chloromethyl methyl sulfide | 17 mmol, 1.4 mL, 1.0 equiv | CSCCl | C2H5ClS
reactant | sodium hydride | [H-].[Na+]
reactant | diethyl 2-benzylmalonate | 17 mmol, 4.0 mL, 1.0 equiv | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C14H18O4
solvent | N,N-dimethylformamide | 34 mL | CN(C=O)C | C3H7NO
product | diethyl 2-benzyl-2-(methylthiomethyl)malonate | 5.3 g, 99% | C(C1=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CSC | C16H22O4S
